Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
clarithromycin / shrimp / tree nuts / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___
 
Chief Complaint:
right lower quadrant (RLQ) pain
 
Major Surgical or Invasive Procedure:
Laparoscopic right ovarian cystectomy

 
History of Present Illness:
HPI: ___ yo G0 w/ hx of fibroid uterus, menorrhagia p/w RLQ pain. 
She reports 3 days of constant RLQ pain that radiates to the 
right groin. The pain is not positional, not related to eating, 
is both dull and sharp in quality, and feels "like pulling." 
Yesterday, the pain improved and she was able to exercise 
without issues. Her pain returned this morning and has persisted 
throughout the day. At its worse, the pain is 10 out of 10 in 
intensity. The pain is currently 5 out of 10 (pt received 4mg IV 
morphine x2 today in the ED, last dose ~1400).

Pt reports nausea with 3 episodes of emesis over the last 24 
hours. Yesterday evening she had an episode of loose stools. She 
denies sick contacts. She tolerated a regular diet yesterday. 
Today she has had decreased PO intake -- bananas, crackers, etc.
She feels bloated. She took pepto bismol, ___ seltzer, and 
tylenol with minimal improvement in her symptoms.

On review of systems she dies fevers, dysuria, hematuria, 
headache, vision changes, SOB, back pain, vaginal bleeding, 
abnormal vaginal discharge.
 
Past Medical History:
OBHx: G0 current

GynHx
- LMP: ___
- fibroids: multifibroid uterus (largest is 6 cm per ___
US)
- endometriosis: yes
- sexually active: not currently, denies hx of STI
- contraception: denies 
- abnormal pap: yes - remote hx of abnl pap w/ nl f/u screening
- gyn surgery: lsc L salpingectomy and L ovarian cystectomy for 
L hydrosalpinx and L ovarian cyst (___)

PMH: denies

PSH: 
- lsc L salpingectomy and L ovarian cystectomy for L 
hydrosalpinx
and L ovarian cyst
- lsc CCY
- knee surgery

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION
Vital signs: 97.8 98 137/57 18 100% on RA
                   98.0 72 100/64 20 100% on RA
GEN: uncomfortable appearing
CV: regular rate
PULM: nl respiratory effort 
ABD: +bowel sounds, abdomen softly distended, no TTP in LLQ but
pt reports pain in RLQ w/ palpation of LLQ. TTP in
RLQ/subprapubic region with some guarding but no rebound.
PELVIS: nl external female genitalia, scant thick white 
discharge in vaginal vault, no vaginal or cervical lesions, no 
CMT. on bimanual exam there is a 10 cm anteverted uterus, no 
left adnexal tenderness of fullness.

DISCHARGE
Vitals:  stable within normal limits 
Gen: NAD, resting comfortably in hospital bed. 
CV: RRR
Pulm: CTAB
Abd: nondistended, positive bowel sounds, appropriately tender 
topalpation, no rebound/guarding, laparoscopic incision sites 
clean/dry/intact
Ext: BLE nontender, nonedematous 
 
Pertinent Results:
================
ADMISSION LABS
================
___ 11:00AM BLOOD WBC-4.8 RBC-4.46 Hgb-13.3 Hct-41.2 MCV-92 
MCH-29.8 MCHC-32.3 RDW-13.3 RDWSD-45.5 Plt ___
___ 11:00AM BLOOD Neuts-59.8 ___ Monos-6.9 Eos-1.3 
Baso-0.2 Im ___ AbsNeut-2.86 AbsLymp-1.50 AbsMono-0.33 
AbsEos-0.06 AbsBaso-0.01
___ 11:00AM BLOOD Glucose-89 UreaN-13 Creat-0.6 Na-138 
K-4.8 Cl-102 HCO3-23 AnGap-13
___ 11:00AM BLOOD ALT-14 AST-26 AlkPhos-87 TotBili-0.5
___ 11:00AM BLOOD Albumin-3.9
___ 11:00AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 11:00AM URINE Blood-TR* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR*
___ 11:00AM URINE RBC-4* WBC-2 Bacteri-FEW* Yeast-NONE 
Epi-6
___ 11:00AM URINE Mucous-OCC*
___ 11:00AM URINE UCG-NEGATIVE
___ 06:00PM OTHER BODY FLUID CT-NEG NG-NEG

================
MICROBIOLOGY
================
URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    >100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 
================
IMAGING
================
Pelvic US ___.  Enlarged fibroid uterus, not significantly 
changed compared to prior. 2.  The endometrium is distorted by 
adjacent fibroids, however, where
visualized appears normal. 3.  Unchanged small left 
hydrosalpinx. 4.  Right hemorrhagic cyst measuring 3.2 x 4.6 x 
3.2 cm.  While normal arterial and venous waveforms were 
present, please note that intermittent ovarian torsion cannot be 
excluded on the basis of this exam and clinical correlation is 
needed.

CT Abdomen/Pelvis ___: 1. Normal appendix. 2. Enlarged 
fibroid uterus.
3. 4.9 cm right hemorrhagic cyst and 2.9 cm left hydrosalpinx, 
both of which were better assessed in same-day pelvic 
ultrasound. 4. No free fluid.
 
Brief Hospital Course:
Ms. ___ is a ___ year old gravida 0 with a history of 
endometriosis, uterine fibroids, and left ovarian cyst status 
post cystectomy in ___ who was admitted to the Gynecology 
service on ___ with a right ovarian cyst and right lower 
quadrant pain concerning for ovarian torsion.

On presentation she was stable, and her exam was notable for 
tenderness in the RLQ without peritoneal signs. CBC, 
electrolytes, and LFTs were within normal limits; UA was not 
concerning for UTI and urine culture has grown alpha hemolytic 
colonies (asymptomatic bacteriuria). Imaging showed a 3.2 x 4.6 
x 3.2 cm right hemorrhagic ovarian cyst, with intact blood flow 
to both ovaries, and normal appendix. She was admitted for 
monitoring and serial abdominal exams to evaluate for ovarian 
torsion. 

Her pain was initially controlled with IV morphine in the ED. 
Overnight her pain subsided and was controlled with 
acetaminophen alone. However, the following morning on hospital 
day 2 she complained of acute worsening pain that began after 
moving in bed. Exam showed increased tenderness and involuntary 
guarding in the RLQ. Given the elevated concern for ovarian 
torsion, the decision was made to proceed with diagnostic 
laparoscopy. The patient agreed and signed the consent. 

On ___ she underwent diagnostic laparoscopy, lysis of 
adhesions, right ovarian cystectomy, and partial omentectomy. Of 
note, no ovarian torsion was seen. Please see the operative 
report for further details.

Her post-operative course was uncomplicated. Her diet was 
advanced without difficulty. Her pain was controlled with 
oxycodone, ibuprofen, and acetaminophen. By post-operative day 1 
(hospital day 3), she was tolerating a regular diet, voiding 
spontaneously, ambulating independently, and pain was controlled 
with oral medications. She was then discharged home in stable 
condition with a plan for outpatient follow-up. 

 
Medications on Admission:
Biotin 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drink alcohol or drive while taking 
RX *oxycodone 5 mg 1 tablet(s) by mouth q3-4h Disp #*15 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain, hemorrhagic ovarian cyst, uterine fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Gynecology service with lower abdominal 
pain and concern that the ovary was twisting on its blood supply 
(called ovarian torsion). 

You underwent a laparoscopic right ovarian cystectomy. You have 
recovered well and the team believes you are ready to be 
discharged home. Please call Dr. ___ office with any 
questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___